US06653330B2
4′-Acetoxy-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide (Exemplification Compound Number 17-1)
Acetic anhydride (1.5 ml) was added dropwise to a solution of 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-4′-hydroxybenzanilide (40 mg, 0.07 mmol), obtained in Example 23(2), in anhydrous pyridine (3 ml) cooled to 0° C. with stirring. The resulting mixture was stirred at room temperature overnight. At the end of this time, the reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution at 0° C. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford the title compound (43 mg, yield 100%) as a colorless oil. The oil was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | Acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-4′-hydroxybenzanilide | 0.07 mmol, 40 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)NC2=CC=C(C=C2)O)C=C1)(CN1N=CN=C1)O | C29H28F2N4O5S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4′-Acetoxy-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide | 43 mg, yield 100% | C(C)(=O)OC1=CC=C(NC(C2=CC=C(C=C2)[C@@H]2OC[C@H](CO2)S[C@@H]([C@@](CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)C)=O)C=C1 | C31H30F2N4O6S
